US05958910
A mixture of 0.5 g of 4-(3,4-bis-benzyloxy-phenyl)-thiazol-2-ylamine hydrobromide with 0.23 g of p-toluenesulfonyl chloride was stirred overnight with 2 ml of pyridine. The resulting, red colored solution was poured into 50 ml of 1N hydrochloric acid and extracted three times with 50 ml of methylene chloride each time. The organic extracts were combined, dried with magnesium sulphate and concentrated. The residue was dissolved in a mixture of 20 ml of ethanol and 15 ml of 2N sodium hydroxide solution. After the addition of 0.4 g of active charcoal the mixture was stirred at room temperature for 30 minutes and subsequently the active charcoal was filtered off. The product separated upon neutralization with concentrated hydrochloric acid. Recrystallization from 50 ml of 60% ethanol yielded 0.33 g of N-[4-(3,4-bis-benzyloxy-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide as colorless crystals.

reactant | 4-(3,4-bis-benzyloxy-phenyl)-thiazol-2-ylamine hydrobromide | 0.5 g | Br.C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)C=1N=C(SC1)N
reactant | p-toluenesulfonyl chloride | 0.23 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-(3,4-bis-benzyloxy-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide | 0.33 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)C=1N=C(SC1)NS(=O)(=O)C1=CC=C(C=C1)C | C30H26N2O4S2
